US08211919B2
To a solution of 4-bromoaniline (1.1 g), (2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoic acid (1.87 g) and diisopropylethylamine (1.82 g) in N,N-dimethylformamide (30 mL) was added (O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate) (HATU) (2.68 g) and the mixture was stirred for 24 hours. Water was added and the mixture was extracted with ethyl acetate. The separated organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to afford tert-butyl {(1S)-1-benzyl-2-[(4-bromophenyl)amino]-2-oxoethyl}carbamate (2.62 g).

reactant | 4-bromoaniline | 1.1 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | (2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoic acid | 1.87 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=CC=C1 | C14H19NO4
reactant | diisopropylethylamine | 1.82 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | tert-butyl {(1S)-1-benzyl-2-[(4-bromophenyl)amino]-2-oxoethyl}carbamate | 2.62 g | C(C1=CC=CC=C1)[C@@H](C(=O)NC1=CC=C(C=C1)Br)NC(OC(C)(C)C)=O | C20H23BrN2O3
